US05643546
Naphthalene was polymerized at a temperature of from 200° to 400° C. in the presence of a HF.BF3 catalyst to obtain a pitch which had an optical anisotropy of 100% as observed under a polarization microscope, an optical anisotropic structure of a "rough flow type", a Mettler softening point of 250° C. and an elemental composition as analyzed of C: 94.8 wt % and H: 5.2 wt %. This pitch was finely pulverized. Then, pyridine (solubility parameter: 10.6) was added in an amount of 200 ml to 5 g of this pitch, and extraction was conducted at 100° C., followed by filtration with a 0.5 μm membrane filter to remove a pyridien-insoluble matter. Then, from the soluble matter, pyridine was removed to obtain a pyrildine-soluble pitch. The pitch had ΔTg of 33° C. and Qi of not more than 1% by weight.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | BF3 | B(F)(F)F | BF3
product | Naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
